US07786132B2
(iii) 1-(2-(5-Phenyl-4-(thiophen-2-yl)pyrimidin-2-ylamino)ethyl)imidazolidin-2-one
3-(Dimethylamino)-2-phenyl-1-(thiophen-2-yl)prop-2-en-1-one (1 g, 3.88 mmol) in N-methyl pyrrolidone (10 mL) was treated with 1-(2-(2-oxoimidazolidin-1-yl)ethyl)guanidine hydrochloride (1 M solution in N-methyl pyrrolidone 5.82 mL, 5.82 mmol) and cesium carbonate (1.26 g, 3.88 mmol). The mixture was heated at 100° C. overnight. The reaction was then allowed to cool to room temperature and poured into cold water. The aqueous layer was extracted three times with dichloromethane. All the organic layers were combined and washed with saturated aqueous sodium bicarbonate, water and brine. The organic layer was then dried with sodium sulfate, reduced in vacuo and purified by flash chromatography using a gradient of 0 to 10% methanol in dichloromethane to obtain a yellow solid. Yield=1.2 g. MS (M+H)+ 366.

reactant | 3-(Dimethylamino)-2-phenyl-1-(thiophen-2-yl)prop-2-en-1-one | 3.88 mmol, 1 g | CN(C=C(C(=O)C=1SC=CC1)C1=CC=CC=C1)C | C15H15NOS
reactant | 1-(2-(2-oxoimidazolidin-1-yl)ethyl)guanidine hydrochloride | 5.82 mmol, 1 M, 5.82 mL | Cl.O=C1N(CCN1)CCNC(=N)N
reactant | cesium carbonate | 3.88 mmol, 1.26 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | N-methyl pyrrolidone | 10 mL | CN1C(CCC1)=O | C5H9NO
product | 1-(2-(5-Phenyl-4-(thiophen-2-yl)pyrimidin-2-ylamino)ethyl)imidazolidin-2-one | C1(=CC=CC=C1)C=1C(=NC(=NC1)NCCN1C(NCC1)=O)C=1SC=CC1 | C19H19N5OS
